US08008298B2
To a solution of 1-[2-(3-methoxy-5-thiomorpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (80 mg, 0.195 mmol) in methylene chloride (5 ml) and methanol (5 drops) was added m-CPBA (44 mg, 0.195 mmol). After 1 hour the crude material was loaded onto 2 preparative TLC plates, eluting with 10% methanol in methylene chloride. The product band was collected to afford 61 mg of 1-{2-[3-methoxy-5-(1-oxo-1lambda*4*-thiomorpholin-4-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one as a light yellow-brown solid. MP 259-260° C., M+H=427.

reactant | 1-[2-(3-methoxy-5-thiomorpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.195 mmol, 80 mg | COC=1C=C(C=C(C1)N1CCSCC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C22H26N4O2S
reactant | m-CPBA | 0.195 mmol, 44 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | methanol | 5 drops | CO | CH4O
product | 1-{2-[3-methoxy-5-(1-oxo-1lambda*4*-thiomorpholin-4-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | 61 mg | COC=1C=C(C=C(C1)N1CCS(CC1)=O)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C22H26N4O3S
